US05707931
3-Acetyl-6-chloro-4-methylthioethylamino-8-trifluoromethyl-2-quinolinone (102)
3-Acetyl-6-chloro-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone (351 mg, 1 mmol) and methylthioethylamine (91 mg, 1 mmol) were used and the reaction was carried out as in the above process of example 1 to obtain the desired product (287 mg, yield: 76%).

reactant | 3-Acetyl-6-chloro-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone | 1 mmol, 351 mg | C(C)(=O)C=1C(NC2=C(C=C(C(=C2C1C)OS(=O)(=O)O)Cl)C(F)(F)F)=O | C13H9ClF3NO6S
reactant | methylthioethylamine | 1 mmol, 91 mg | CSCCN | C3H9NS
product | 3-Acetyl-6-chloro-4-methylthioethylamino-8-trifluoromethyl-2-quinolinone | 287 mg, yield: 76% | C(C)(=O)C=1C(NC2=C(C=C(C=C2C1NCCSC)Cl)C(F)(F)F)=O | C15H14ClF3N2O2S
